US07214802B2
A solution of 2-bromo-1-(5-methyl-1-phenyl-1H-pyrazol-4-yl)-ethanone (829 mg; 2.97 mmol) and 3-amino-4-methyl benzoic acid methyl ester in 6 mL of EtOH was stirred at 75° C., for 6 h. The mixture was cooled, and the resulting precipitate was filtered and washed with cold EtOH to provide 564 mg (1.55 mmol; 52%) of 4-methyl-3-[2-(5-methyl-1-phenyl-1H-pyrazol-4-yl)-2-oxo-ethylamino]-benzoic acid methyl ester as a white powder.

reactant | 2-bromo-1-(5-methyl-1-phenyl-1H-pyrazol-4-yl)-ethanone | 2.97 mmol, 829 mg | BrCC(=O)C=1C=NN(C1C)C1=CC=CC=C1 | C12H11BrN2O
reactant | 3-amino-4-methyl benzoic acid methyl ester | COC(C1=CC(=C(C=C1)C)N)=O | C9H11NO2
solvent | EtOH | 6 mL | CCO | C2H6O
product | 4-methyl-3-[2-(5-methyl-1-phenyl-1H-pyrazol-4-yl)-2-oxo-ethylamino]-benzoic acid methyl ester | 1.55 mmol, 564 mg, 52% | COC(C1=CC(=C(C=C1)C)NCC(=O)C=1C=NN(C1C)C1=CC=CC=C1)=O | C21H21N3O3
